US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Chloro-2-(1-piperidin-4-yl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LVII)
(1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide and 4-(4-formyl-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester were reacted in a similar fashion as for the synthesis of III. The resulting product was treated with 20 equivalents of trifluoroacetic acid in dichloromethane at 40° C. overnight. The solution was concentrated and neutralized to afford the title compound as a tan solid (64%). Mp. 203-5° C. 1H NMR (d-4 methanol): 8.27 (s, 1H), 8.07 (s, 1H), 7.89 (s, 1H), 6.42 (m, 1H), 6.37 (m, 1H), 5.32 (m, 1H), 4.87 (m, 3H), 4.44 (m, 1H), 3.33 (m, 2H), 3.25 (m, 2H), 2.98 (s, 1H), 2.90-2.72 (m, 4H), 2.36 (d, J=8 Hz, 1H), 2.20 (m, 2H), 2.04 (m, 2H), 1.57 (d, J=8 Hz, 1H). MS: 452.9 (M+H). HPLC retention time: 1.60 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 4-(4-formyl-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C=O | C14H21N3O3
reactant | trifluoroacetic acid | 20 equivalents | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(1-piperidin-4-yl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 64% | ClC=1C(=C2C(=NC1)NC(=N2)C=2C=NN(C2)C2CCNCC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C22H25ClN8O
